US05475113
Methyl (5,6,7,8-tetrahydro-3,5,5,8,8-pentamethylnaphthalen-2-yl) ketone (Compound 16)
To a suspension of 6.71 g (50.3 mmol) of aluminum chloride in methylene chloride at 0° C. under argon was added a solution of 3.95 g (3.58 mL, 50.3 mmol) of acetyl chloride and 10.21 g (41.9 mmol) of 5,6,7,8-tetrahydro-3,5,5,8,8-pentamethylnaphthalene in methylene chloride. The resulting mixture was allowed to warm to room temperature over a period of 3 hours with stirring. The mixture was recooled to 0° C. and 1N HCl was dropwise added. The mixture was then taken-up in water and extracted three times with methylene chloride. The organic layers were washed with 1N HCl, water, brine, and dried (MgSO4). Solvent was removed in-vacuo and the resulting residue purified using flash chromatography to give the title compound as an ivory solid.

reactant | aluminum chloride | 50.3 mmol, 6.71 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | acetyl chloride | 50.3 mmol, 3.58 mL, 3.95 g | C(C)(=O)Cl | C2H3ClO
reactant | 5,6,7,8-tetrahydro-3,5,5,8,8-pentamethylnaphthalene | 41.9 mmol, 10.21 g | CC=1C=CC=2C(CCC(C2C1)(C)C)(C)C | C15H22
reactant | HCl | 1N | Cl | ClH
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
product | Methyl (5,6,7,8-tetrahydro-3,5,5,8,8-pentamethylnaphthalen-2-yl) ketone | CC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)C(=O)C | C17H24O
